US08314109B2
A solution of 300 mg of 6-(6-benzyloxypyrid-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in 3 mL of trifluoroacetic acid is stirred at 25° C. for 48 hours and then evaporated to dryness under reduced pressure at 45° C. The residue is triturated with ether, filtered off and dried, and then triturated again with 2 mL of saturated sodium bicarbonate solution, washed twice with 2 mL of water and twice with 2 mL of ethyl ether and dried under reduced pressure to give 168 mg of 6-(6-hydroxypyrid-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in the form of a beige-coloured solid.

reactant | 6-(6-benzyloxypyrid-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 300 mg | C(C1=CC=CC=C1)OC1=CC=CC(=N1)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C26H20N4O2
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(6-hydroxypyrid-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 168 mg | OC1=CC=CC(=N1)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C19H14N4O2
